US07034039B2
To a solution of tert-butyl[4-butoxy-6-(cyanomethyl)-2-neopentyl-1oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.45 g, 1 mmol) in ethanol (20 ml) was added a solution of potassium hydroxide (0.40 g, 10 mmol) in water (5 ml). The mixture was refluxed for 10 h. The reaction mixture was poured into water, acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give crude amorphous solid. A solution of the amorphous solid, 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.19 g, 1 mmol) and 1-hydroxybenzotriazole ammonium salt (0.15 g, 1 mol) in N,N-dimethylformamide (10 ml) was stirred for 2 h at room temperature. The resulting reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to give tert-butyl[6-(2-amino-2-oxoethyl)-4-butoxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate. (0.13 g, 54.2%) as crystals.

reactant | tert-butyl[4-butoxy-6-(cyanomethyl)-2-neopentyl-1oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 1 mmol, 0.45 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)CC#N)=O)CC(C)(C)C)=O | C26H37N3O4
reactant | potassium hydroxide | 10 mmol, 0.40 g | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1 mmol, 0.19 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole ammonium salt | 1 mol, 0.15 g | [NH4+].ON1N=NC2=C1C=CC=C2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | tert-butyl[6-(2-amino-2-oxoethyl)-4-butoxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)CC(=O)N)=O)CC(C)(C)C)=O | C26H39N3O5
